US09353096B2
The crude reaction mixture was concentrated in vacuo, dissolved in dichloromethane and methanol and silica was added. The suspension was concentrated in vacuo. The resulting residue was dry-loaded onto a 40 g column. Flash chromatography (90/10 hexanes/ethyl acetate) afforded the late-running spot, assigned as (4-chloro-phenyl)-carbamic acid (S)-1-((S)-2-benzyl-morpholin-4-ylmethyl)-2,2,2-trifluoro-ethyl ester, as a white foam. The resulting white foam was dissolved in ether and 0.5 mL of 1 M HCl in ether was added. Hexane was added to the resulting suspension and the solid was washed with ether/hexanes and dried under vacuum to yield (4-chloro-phenyl)-carbamic acid (S)-1-((S)-2-benzyl-morpholin-4-ylmethyl)-2,2,2-trifluoro-ethyl ester hydrochloride (242 mg, 24%) as an off-white solid. (M+H)+=443 m/e.

reactant | (4-chloro-phenyl)-carbamic acid (S)-1-((S)-2-benzyl-morpholin-4-ylmethyl)-2,2,2-trifluoro-ethyl ester | C(C1=CC=CC=C1)[C@H]1CN(CCO1)C[C@@H](C(F)(F)F)OC(NC1=CC=C(C=C1)Cl)=O | C21H22ClF3N2O3
reactant | HCl | 1 M, 0.5 mL | Cl | ClH
reactant | Hexane | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
product | (4-chloro-phenyl)-carbamic acid (S)-1-((S)-2-benzyl-morpholin-4-ylmethyl)-2,2,2-trifluoro-ethyl ester hydrochloride | 242 mg, 24% | Cl.C(C1=CC=CC=C1)[C@H]1CN(CCO1)C[C@@H](C(F)(F)F)OC(NC1=CC=C(C=C1)Cl)=O | InChI=1S/C21H22ClF3N2O3.ClH/c22-16-6-8-17(9-7-16)26-20(28)30-19(21(23,24)25)14-27-10-11-29-18(13-27)12-15-4-2-1-3-5-15;/h1-9,18-19H,10-14H2,(H,26,28);1H/t18-,19-;/m0./s1
